US07291631B2
Using General Procedure B: Reaction of {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester, 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde and NaBH(OAc)3 gave [4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino]-butyl]-methyl-carbamic acid tert-butyl ester as a light brown solid. Deprotection with TFA using General Procedure F gave N-(5-Chloro-3-methyl-pyridin-2-ylmethyl)-N-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-N′-methyl-butane-1,4-diamine (326 mg, excess) which was used immediately in the next reaction.

reactant | {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=C(C=C1C)Cl)=O | C17H28ClN3O2
reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | [4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino]-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN(CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F)CC1=NC=C(C=C1C)Cl)=O | C32H42ClFN4O2
